US06069176
N-Benzyl-N-[3-(4-methoxyphenyl)cyclopentylmethyl]amine hydrochloride (6.30 g) was dissolved in acetic acid (130 ml), and 10% palladium-carbon (1.1 g) was added. After substituting the reaction vessel with hydrogen gas, hydrogen addition was carried out at normal pressure, 80° C. for 2 hours. After the reaction, the catalyst was filtered off and the solvent was distilled off under reduced pressure to produce light yellow crystals which were then washed with diethyl ether to give 4.31 g of 3-(4-methoxyphenyl) cyclopentylmethylamine hydrochloride (94.0%).

reactant | N-Benzyl-N-[3-(4-methoxyphenyl)cyclopentylmethyl]amine hydrochloride | 6.30 g | Cl.C(C1=CC=CC=C1)NCC1CC(CC1)C1=CC=C(C=C1)OC
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 1.1 g | [C].[Pd]
product | 3-(4-methoxyphenyl) cyclopentylmethylamine hydrochloride | 4.31 g, 94.0% | Cl.COC1=CC=C(C=C1)C1CC(CC1)CN | InChI=1S/C13H19NO.ClH/c1-15-13-6-4-11(5-7-13)12-3-2-10(8-12)9-14;/h4-7,10,12H,2-3,8-9,14H2,1H3;1H
